US06888022B2
Synthesis of 4[N-[N-(3-Nitrophenylacetyl)-L-alaninyl]-L-valinyl]morpholine
Following General Procedure C and using N-(3-nitrophenylacetyl)-L-alanine (from Example DlI above) and 4-(L-valinyl)morpholine (prepared from N-BOC-L-valine (Aldrich) and morpholine (Aldrich) using General Procedure M, followed by removal of the BOC-group using General Procedure P), the title compound was prepared as a solid. The reaction was monitored by tlc (Rf=0.5 in 9:1 CHCl3/MeOH) and the product was purified by silica gel chromatography using 98:2 CHCl3/MeOH as the eluent.

reactant | N-(3-nitrophenylacetyl)-L-alanine | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)N[C@@H](C)C(=O)O | C11H12N2O5
reactant | 4-(L-valinyl)morpholine | N[C@@H](C(C)C)C(=O)N1CCOCC1 | C9H18N2O2
reactant | N-BOC-L-valine | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 4[N-[N-(3-Nitrophenylacetyl)-L-alaninyl]-L-valinyl]morpholine | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N1CCOCC1 | C20H28N4O6
